US04958026
In the presence of 1.0 g of Raney nickel, 1.2 g of N,N-dimethyl-N-[2-(7-nitro-1H-indazol-4-yl)ethyl]amine is hydrogenated in 60 ml of tetrahydrofuran. The mixture is filtered, concentrated and recrystallized from ethyl acetate/hexane, thus producing 860 mg of N,N-dimethyl-N-[2-(7-amino-1H-indazol-4-yl)ethyl]amine, mp 125° C. This product is treated, in the amount of 460 mg, with ethanol and ethereal hydrochloric acid, recrystallization from methanol/diethyl ether yielding 505 mg of N,N-dimethyl-N-[2-(7-amino-1H-indazol-4-yl)ethyl]amine, dihydrochloride, mp 231°-232° C.

reactant | N,N-dimethyl-N-[2-(7-nitro-1H-indazol-4-yl)ethyl]amine | 1.2 g | CN(CCC1=C2C=NNC2=C(C=C1)[N+](=O)[O-])C | C11H14N4O2
catalyst | Raney nickel | 1.0 g | [Ni] | Ni
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | N,N-dimethyl-N-[2-(7-amino-1H-indazol-4-yl)ethyl]amine | 860 mg | CN(CCC1=C2C=NNC2=C(C=C1)N)C | C11H16N4
